US07915424B2
1-Fluoro-4-iodo-2-nitrobenzene
Add isoamyl nitrite (18.6 g, 160 mmol) to a suspension of 4-fluoro-3-nitrophenylamine (5.0 g, 32 mmol) in diiodomethane (150 mL). Stir under nitrogen at room temperature for 1 h. Heat at 70° C. for 1 h. Cool to room temperature and concentrate. Dilute with dichloromethane (500 mL) and water (100 mL). Collect the organic, concentrate and purify (silica gel chromatography, eluting with a gradient of 100:0 to 80:20 hexanes:ethyl acetate), to give the title compound as a yellow oil (1.22 g, 14%).

reactant | isoamyl nitrite | 160 mmol, 18.6 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-fluoro-3-nitrophenylamine | 32 mmol, 5.0 g | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | diiodomethane | 150 mL | ICI | CH2I2
product | 1-Fluoro-4-iodo-2-nitrobenzene | 1.22 g, 14% | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
